US06100254
2-Amino-3'-methoxybenzophenone (6.92 g, 30.5 mmol) was dissolved in 125 mL of 48% hydrobromic acid and the solution was heated at refluxed for 12 h. The solvent was removed by rotary evaporation and the resulting red solid was distributed between saturated sodium bicarbonate (400 mL) and CH2Cl2 (500 mL). The aqueous layer was washed with CH2Cl2 (2×100 mL) and the combined organic layers were dried with sodium sulfate and concentrated in vacuo to afford 6.03 g (92% yield) of 2-amino-3'-hydroxybenzophenone as a red oil. Recrystalization from ethyl acetate/hexanes (reflux, 4° C.) provided light red crystals: mp 130-132° C., Rf 0.25 (75:25, hexanes/ethyl acetate). 1H NMR (500 MHz, CDCl3) δ 5.25 (b, 1), 6.06 (b, 2), 6.58 (dt, 1, J=1.0, 7.5), 6.72 (d, 1, J=8.2), 6.98 (dd, 1, J=2.2, 8.2), 7.07 (t, 1, J=2.0), 7.15 (d, 1, J=7.5), 7.28 (m, 2), 7.45 (dd, 1, J=1.5, 8.0). 13C NMR (101 MHz): δ 77.2, 115.6, 115.7, 117.0, 118.2, 121.7, 129.4, 134.4, 134.6, 141.6, 150.9, 155.4. HRMS (FAB, m-nitrobenzyl alcohol) calcd for C13H11NO2 (M+H) 214.0843, found 214.0867.

reactant | 2-Amino-3'-methoxybenzophenone | 30.5 mmol, 6.92 g | NC1=C(C(=O)C2=CC(=CC=C2)OC)C=CC=C1 | C14H13NO2
solvent | hydrobromic acid | 125 mL | Br | BrH
product | 2-amino-3'-hydroxybenzophenone | 6.03 g, 92% yield | NC1=C(C(=O)C2=CC(=CC=C2)O)C=CC=C1 | C13H11NO2
